US07320994B2
4-[3-(3,5-bis(trifluoromethyl)benzyl)-5-tributylstannanyl-3H-[1,2,3]triazol-4-yl]-pyridine
Add potassium trimethylsilanolate (0.651 g, 4.56 mmol, 90% purity) in one portion to a solution of 4-[(trimethylsilanyl)ethynyl]pyridine (40.0 g, 228 mmol, Ziessel, R., et al. J. Org. Chem. 1996, 61, 6535) and bis(tributyltin) oxide (95.2 g, 160 mmol) in THF (400 mL) while keeping the temperature between 25-30° C. with a water bath. After approximately 1 hour, concentrate the solution by rotary evaporation (50° C.) to give an oil containing 78-85% 4-[(tributylstannanyl)ethynyl]pyridine, 15-22% 4-ethynylpyridine and excess bis(tributyltin) oxide. Add 1-azidomethyl-3,5-bis(trifluoromethyl)benzene (73.7 g, 274 mmol) to the oil and heat at 110° C., distilling off any volatiles required to achieve the desired temperature. Heat the solution until the reaction is complete by 1H-NMR analysis (approximately 22 h). After cooling to 50° C., dilute the reaction mixture with heptane (600 mL) and stir at room temperature. Filter the mixture to remove the solids. Purify the mixture by pouring the heptane solution on a silica gel column (810 g silica gel in a 2 L fritted-glass funnel) and elute sequentially with heptane (5.2 L), 1:10 EtOAc:heptane (5.1 L), and 1:3 EtOAc:heptane (12.6 L). Combine the fractions containing product and concentrate by rotary evaporation to give 124 g (82% yield) of the title compound; mp 61.9-63.1° C.; Analysis for C28H36F6N4Sn: Calcd: C, 50.86; H, 5.49; N, 8.47. Found: C, 51.08, H, 5.61; N, 8.50.

reactant | 4-[(trimethylsilanyl)ethynyl]pyridine | 228 mmol, 40.0 g | C[Si](C)(C)C#CC1=CC=NC=C1 | C10H13NSi
reactant | bis(tributyltin) oxide | 160 mmol, 95.2 g | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | 4-[(tributylstannanyl)ethynyl]pyridine | C(CCC)[Sn](CCCC)(CCCC)C#CC1=CC=NC=C1
reactant | 4-ethynylpyridine | C(#C)C1=CC=NC=C1 | C7H5N
reactant | 1-azidomethyl-3,5-bis(trifluoromethyl)benzene | 274 mmol, 73.7 g | N(=[N+]=[N-])CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H5F6N3
solvent | THF | 400 mL | C1CCOC1 | C4H8O
catalyst | potassium trimethylsilanolate | 4.56 mmol, 0.651 g | C[Si]([O-])(C)C.[K+]
product | 4-[3-(3,5-bis(trifluoromethyl)benzyl)-5-tributylstannanyl-3H-[1,2,3]triazol-4-yl]-pyridine | 124 g, 82% yield | FC(C=1C=C(CN2N=NC(=C2C2=CC=NC=C2)[Sn](CCCC)(CCCC)CCCC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C16H9F6N4.3C4H9.Sn/c17-15(18,19)12-5-10(6-13(7-12)16(20,21)22)9-26-14(8-24-25-26)11-1-3-23-4-2-11;3*1-3-4-2;/h1-7H,9H2;3*1,3-4H2,2H3;
